US04290963
One gram of 17α-acetoxy-11β-benzoyloxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione is dissolved in 10 ml of "Dowtherm" (filtered over A12O3). The solution is heated under a stream of nitrogen gas for 30 minutes to 285° C. After cooling, the mixture is diluted with hexane, introduced into a silica gel column, and the "Dowtherm" is eluted with hexane. The thus-prepared compound is now eluted with methylene chloride and a gradually increasing proportion of chloroform. The individual fractions are tested for content and purity by thin-layer chromatography. The fractions having the desired compound are combined, concentrated, and the residue is recrystallized from benzene, thus obtaining 700 mg of 11β-benzoyloxy-1α,2α-methylene-4,6,16-pregnatriene-3,20-dione (79% of theory), m.p. 227°-229° C.

reactant | 17α-acetoxy-11β-benzoyloxy-1α,2α-methylene-4,6-pregnadiene-3,20-dione | One gram | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3[C@H](C[C@]12C)OC(C1=CC=CC=C1)=O)C5)=O | C31H34O6
solvent | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 11β-benzoyloxy-1α,2α-methylene-4,6,16-pregnatriene-3,20-dione | 700 mg, 79% | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@@H]2[C@]3([C@@H]4[C@H](C(C=C3C=C[C@H]2[C@@H]2CC=C(C(C)=O)[C@]2(C1)C)=O)C4)C | C29H30O4
